US07001897B2
To a solution of 1-(4-phthalimidomethyl-1,3-thiazol-2-yl)-3-hydroxyazetidine (864 mg, 2.74 mmol) (obtained as described in Reference Example 68(2)) in methylene chloride (35 ml) were added methanesulfonyl chloride (0.25 ml, 3.29 mmol) and triethylamine (0.46 ml, 3.29 mmol) in an ice bath and the mixture was stirred for 1 hour. After checking the completion of the reaction, the mixture was added to diethyl ether and stirred for 30 minutes. The mixture was then filtered and the solid was collected by filtration and washed with diethyl ether to afford 1-(4-phthalimidomethyl-1,3-thiazol-2-yl)-3-methanesulfonyloxyazetidine (726 mg, yield 67%) as a white solid.

reactant | 1-(4-phthalimidomethyl-1,3-thiazol-2-yl)-3-hydroxyazetidine | 2.74 mmol, 864 mg | C1(C=2C(C(N1CC=1N=C(SC1)N1CC(C1)O)=O)=CC=CC2)=O | C15H13N3O3S
reactant | methanesulfonyl chloride | 3.29 mmol, 0.25 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | triethylamine | 3.29 mmol, 0.46 ml | C(C)N(CC)CC | C6H15N
reactant | diethyl ether | C(C)OCC | C4H10O
solvent | methylene chloride | 35 ml | C(Cl)Cl | CH2Cl2
product | 1-(4-phthalimidomethyl-1,3-thiazol-2-yl)-3-methanesulfonyloxyazetidine | 726 mg, yield 67% | C1(C=2C(C(N1CC=1N=C(SC1)N1CC(C1)OS(=O)(=O)C)=O)=CC=CC2)=O | C16H15N3O5S2
